US07183293B2
2-(Benzo-[1,3]dioxol-5-yloxy)-nicotinic acid of Formula (5.0.6)
2-Chloro-nicotinic acid ethyl ester (10 g), benzo[1,3]dioxol-5-ol (sesamol, 8.2 g), and cesium carbonate (21 g) were mixed in anhydrous dioxane (40 mL) and the resulting slurry heated to reflux for 16 h. In a separate flask, lithium hydroxide (12.9 g) was dissolved in water (80 mL) with warming and then added to the refluxing mixture, which was heated for an additional 4 h. The mixture was cooled to ambient temperature and concentrated in vacuo to remove the dioxane. Concentrated hydrochloric acid was added dropwise until the pH=3. The acidified solution was then extracted with ethyl acetate (7×100 mL) to yield crude product, which was recrystallized from ethyl acetate to yield the purified title compound (10.8 g).

reactant | 2-Chloro-nicotinic acid ethyl ester | 10 g | C(C)OC(C1=C(N=CC=C1)Cl)=O | C8H8ClNO2
reactant | benzo[1,3]dioxol-5-ol | 8.2 g | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | cesium carbonate | 21 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | lithium hydroxide | 12.9 g | [OH-].[Li+]
solvent | water | 80 mL | O | H2O
product | 2-(Benzo-[1,3]dioxol-5-yloxy)-nicotinic acid | O1COC2=C1C=CC(=C2)OC2=C(C(=O)O)C=CC=N2 | C13H9NO5
